### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Galois): characterisation of connected finite `G`-sets

### PR DESCRIPTION
**Pull request by chrisflav**
A finite `G`-set is connected if and only if the `G`-action is transitive.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/ConcreteCategory/Basic.lean [hunk 1]
```diff
@@ -187,6 +187,13 @@ theorem ConcreteCategory.bijective_of_isIso {X Y : C} (f : X ⟶ Y) [IsIso f] :
   infer_instance
 #align category_theory.concrete_category.bijective_of_is_iso CategoryTheory.ConcreteCategory.bijective_of_isIso
 
+/-- If the forgetful functor of a concrete category reflects isomorphisms, being an isomorphism
+is equivalent to being bijective. -/
+theorem ConcreteCategory.isIso_iff_bijective_of_reflectsIso [ReflectsIsomorphisms (forget C)]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ConcreteCategory/Basic.lean:192]: As the parameter `ReflectsIsomorphisms` the obviously expected typeclass, I think we may shorten the name:
```suggestion
theorem ConcreteCategory.isIso_iff_bijective [ReflectsIsomorphisms (forget C)]
```

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 2]
```diff
@@ -164,6 +164,12 @@ lemma initial_iff_fibre_empty (X : C) : Nonempty (IsInitial X) ↔ IsEmpty (F.ob
     infer_instance
   exact Concrete.initial_iff_empty_of_preserves_of_reflects (F.obj X)
 
+/-- An object is not initial if and only if its fibre is nonempty. -/
+lemma not_initial_iff_fibre_nonempty (X : C) : (IsInitial X → False) ↔ Nonempty (F.obj X) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Basic.lean:168]:
```suggestion
/-- An object is not initial if and only if its fiber is nonempty. -/
lemma not_initial_iff_fiber_nonempty (X : C) : (IsInitial X → False) ↔ Nonempty (F.obj X) := by
```
In mathlib, USA-English is favored against UK-English. Then, I am afraid you should also rename `FibreFunctor` as `FiberFunctor`, etc.

File: Mathlib/CategoryTheory/Galois/Examples.lean [hunk 3]
```diff
@@ -98,6 +99,64 @@ noncomputable instance : FibreFunctor (Action.forget FintypeCat (MonCat.of G)) w
   preservesQuotientsByFiniteGroups _ _ _ := inferInstance
   reflectsIsos := ⟨fun f (h : IsIso f.hom) => inferInstance⟩
 
+instance (X : Action FintypeCat (MonCat.of G)) : MulAction G X.V := Action.instMulAction X
+
+instance : ReflectsIsomorphisms (forget FintypeCat) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Examples.lean:104]: This instance should be moved to the file `CategoryTheory.FintypeCat`.

File: Mathlib/CategoryTheory/Galois/Examples.lean [hunk 4]
```diff
@@ -98,6 +99,64 @@ noncomputable instance : FibreFunctor (Action.forget FintypeCat (MonCat.of G)) w
...
+  show ReflectsIsomorphisms FintypeCat.incl
+  infer_instance
+
+noncomputable instance : PreservesFiniteLimits (forget FintypeCat) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Examples.lean:108]: This instance should be moved to the file `CategoryTheory.Limits.FintypeCat`.

File: Mathlib/CategoryTheory/Galois/Examples.lean [hunk 5]
```diff
@@ -98,6 +99,64 @@ noncomputable instance : FibreFunctor (Action.forget FintypeCat (MonCat.of G)) w
...
+      exact map_isIso (forget₂ _ FintypeCat) i
+    obtain ⟨⟨y', ⟨g, (hg : g • x = y')⟩⟩, (hy' : y' = y)⟩ := hb.surjective y
+    use g
+    exact hg.trans hy'
+
+/-- A nonempty `G`-set with transitive `G`-action is connected. -/
+theorem Action.connected_of_transitive (X : FintypeCat) [MulAction G X]
+    [MulAction.IsPretransitive G X] [h : Nonempty X] :
+    ConnectedObject (Action.FintypeCat.ofMulAction G X) where
+  notInitial := h.elim (fun x ↦ not_initial_of_inhabited (Action.forget _ _) x)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Examples.lean:138]:
```suggestion
  notInitial := not_initial_of_inhabited (Action.forget _ _) h.some
```

File: Mathlib/CategoryTheory/Galois/Examples.lean [hunk 6]
```diff
@@ -98,6 +99,64 @@ noncomputable instance : FibreFunctor (Action.forget FintypeCat (MonCat.of G)) w
...
+  noTrivialComponent Y i hm hni := by
+    /- We show that the induced inclusion `i.hom` of finite sets is surjective, using the
+    transitivity of the `G`-action. -/
+    obtain ⟨(y : Y.V)⟩ := (not_initial_iff_fibre_nonempty (Action.forget _ _) Y).mp hni
+    letI x : X := i.hom y
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Examples.lean:143]: The `let x : X := i.hom y` should be moved before the `obtain...` where it is actually used.

**Review by joelriou — APPROVED** [review]

File: Mathlib/CategoryTheory/Galois/Basic.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Basic.lean:168]: This is unfortunate, `FiberFunctor` looks horrible to my eyes, well I will of course try to adhere to the convention. Since I don't want to produce any merge conflicts with this and the parallel PR: Should I fix the spelling when these two are merged? Since I need to change this at quite a few places.

File: Mathlib/CategoryTheory/Galois/Examples.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Examples.lean:104]: I am not sure about this, since this would require importing `RepresentationTheory.Action.Concrete` in `CategoryTheory.FintypeCat`. Do you think this is fine? Maybe its better the other way round? I.e. put it in `RepresentationTheory.Action.Concrete`? There we already have the `FintypeCat` import.

File: Mathlib/CategoryTheory/Galois/Examples.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Examples.lean]: Do you know why I can't write `obtain ⟨σ, hσ⟩ := MulAction.exists_smul_eq G (i.hom y : X) x'` (and drop the auxiliary definition)? In this case Lean says `failed to synthesize instance: MulAction.IsPretransitive G ↑(Action.FintypeCat.ofMulAction G X).V`, which strikes me as strange, since I explicitly give the type annotation `i.hom y : X`.

File: Mathlib/CategoryTheory/Galois/Examples.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Galois/Examples.lean]: I was referring to the `ReflectsIsomorphisms` instance.

File: Mathlib/CategoryTheory/Galois/Examples.lean (hunk 6 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Galois/Examples.lean]: I think that `show X from i.hom y` would also work here. I am not expert enough to know exactly what is happening, but basically it may come from the fact that Lean sees a term in `↑(Action.FintypeCat.ofMulAction G X).V` rather than the coercion of `X` to a type, even though they are definitionally equal: instances that are found for `X` may not be found for the other.

File: Mathlib/CategoryTheory/Galois/Examples.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Examples.lean]: I replaced it with `Full (forget FintypeCat)` in `CategoryTheory.FintypeCat`.

File: Mathlib/CategoryTheory/Galois/Basic.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Galois/Basic.lean:168]: The change for `FibreFunctor` can be done separately, but I would suggest that for the new definitions here, the change "fibre" -> "fibre" is applied immediately.

File: Mathlib/CategoryTheory/Galois/Examples.lean [hunk 7]
```diff
@@ -98,6 +99,55 @@ noncomputable instance : FibreFunctor (Action.forget FintypeCat (MonCat.of G)) w
   preservesQuotientsByFiniteGroups _ _ _ := inferInstance
   reflectsIsos := ⟨fun f (h : IsIso f.hom) => inferInstance⟩
 
+/-- The `G`-action on a connected finite `G`-set is transitive. -/
+theorem Action.pretransitive_of_connected (X : Action FintypeCat (MonCat.of G))
+    [ConnectedObject X] : MulAction.IsPretransitive G X.V where
+  exists_smul_eq x y := by
+    /- We show that the `G`-orbit of `x` is a non-initial subobject of `X` and hence by
+    connectedness, the orbit equals `X.V`. -/
+    letI T : Set X.V := MulAction.orbit G x
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Examples.lean:108]: Most of the `letI` here should be replaced by `let`.

File: Mathlib/CategoryTheory/FintypeCat.lean [hunk 8]
```diff
@@ -69,6 +69,11 @@ instance concreteCategoryFintype : ConcreteCategory FintypeCat :=
 set_option linter.uppercaseLean3 false in
 #align Fintype.concrete_category_Fintype FintypeCat.concreteCategoryFintype
 
+/- Help typeclass inference infer fullness of forgetful functor. -/
+instance : Full (forget FintypeCat) := by
+  show Full FintypeCat.incl
+  infer_instance
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/FintypeCat.lean:75]:
```suggestion
instance : Full (forget FintypeCat) :=
    inferInstanceAs (Full FintypeCat.incl)
```

**Review by jcommelin — APPROVED** [review]
bors d+
